US04110326
2β-N-methyl-piperazino-16β-piperidino-3α,17β-diacetoxy-5α-androstane
The compound is prepared by acylation of 2β-N-methyl-piperazino-16β-piperidino-3α,17β-dihydroxy-5α-androstane according to the method described in Example 12. Yield: 72.0% [α]D25 = +29.4° (c = 1 in chloroform).

reactant | 2β-N-methyl-piperazino-16β-piperidino-3α,17β-dihydroxy-5α-androstane | CN1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1)O | C29H51N3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2β-N-methyl-piperazino-16β-piperidino-3α,17β-diacetoxy-5α-androstane | Yield: 72.0% | CN1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)OC(C)=O)N1CCCCC1)OC(C)=O | C33H55N3O4
